US07579473B2
5-{4-[2-Fluoro-4-(3-phenylacetyl-thioureido)-phenoxy]-6-methoxy-quinazolin-7-yloxymethyl}-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester (3.3 g, 4.5 mmol) was dissolved in AcOH (70 ml) to which was added 33% HBr in AcOH (12 ml). The reaction mixture was stirred at room temperature for 1 hr, diluted with Et2O (1000 ml) and the resulting solids filtered, washed with Et2O, and dried under high vacuum to give the 1-{3-fluoro-4-[6-methoxy-7-(octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinazolin-4-yloxy]-phenyl}-3-phenylacetyl-thiourea, dihydrobromide salt (3.4 g, 100%). 1H-NMR (400 MHz, DMSO): 12.42 (s, 1H), 11.80 (s, 1H), 8.84 (br s, 2H), 8.64 (s, 1H), 7.92 (m, 1H), 7.59 (s, 1H), 7.49 (m, 2H), 7.41 (s, 1H), 7.33 (m, 4H), 7.27 (m, 1H), 4.17 (d, 2H), 3.95 (s, 3H), 3.73 (s, 2H), 3.17 (m, 2H), 3.10 (m, 2H), 2.83 (m, 2H), 2.45 (m, 1H), 2.15 (m, 2H), 1.30 (m, 2H). LC/MS Calcd for [M+H]+ 602.2, found 602.1.

reactant | 5-{4-[2-Fluoro-4-(3-phenylacetyl-thioureido)-phenoxy]-6-methoxy-quinazolin-7-yloxymethyl}-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester | 4.5 mmol, 3.3 g | C(C1=CC=CC=C1)OC(=O)N1CC2C(C1)CC(C2)COC2=C(C=C1C(=NC=NC1=C2)OC2=C(C=C(C=C2)NC(=S)NC(CC2=CC=CC=C2)=O)F)OC | C40H38FN5O6S
reactant | HBr | Br | BrH
solvent | AcOH | 70 ml | CC(=O)O | C2H4O2
solvent | AcOH | 12 ml | CC(=O)O | C2H4O2
solvent | Et2O | 1000 ml | CCOCC | C4H10O
product | 1-{3-fluoro-4-[6-methoxy-7-(octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinazolin-4-yloxy]-phenyl}-3-phenylacetyl-thiourea, dihydrobromide salt | 3.4 g, 100% | Br.Br.FC=1C=C(C=CC1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CC2C(CNC2)C1)NC(=S)NC(CC1=CC=CC=C1)=O | InChI=1S/C32H32FN5O4S.2BrH/c1-40-28-13-24-26(14-29(28)41-17-20-9-21-15-34-16-22(21)10-20)35-18-36-31(24)42-27-8-7-23(12-25(27)33)37-32(43)38-30(39)11-19-5-3-2-4-6-19;;/h2-8,12-14,18,20-22,34H,9-11,15-17H2,1H3,(H2,37,38,39,43);2*1H
